US07365225B2
2-hydroxy-5-[(phenoxyacetyl)(4-{[(4-phenoxybenzyl)amino]carbonyl}-benzyl)amino]benzoic acid
The title compound was prepared following the procedure A using 4-phenoxybenzylamine, 4-(chloromethyl)benzoyl chloride, phenoxyacetyl chloride and 6-amino-2,2-dimethyl-4H-1,3-benzodioxin-4-one. M+(ESI): 603.1

reactant | 4-phenoxybenzylamine | O(C1=CC=CC=C1)C1=CC=C(CN)C=C1 | C13H13NO
reactant | 4-(chloromethyl)benzoyl chloride | ClCC1=CC=C(C(=O)Cl)C=C1 | C8H6Cl2O
reactant | phenoxyacetyl chloride | O(C1=CC=CC=C1)CC(=O)Cl | C8H7ClO2
reactant | 6-amino-2,2-dimethyl-4H-1,3-benzodioxin-4-one | NC1=CC2=C(OC(OC2=O)(C)C)C=C1 | C10H11NO3
product | 2-hydroxy-5-[(phenoxyacetyl)(4-{[(4-phenoxybenzyl)amino]carbonyl}-benzyl)amino]benzoic acid | OC1=C(C(=O)O)C=C(C=C1)N(CC1=CC=C(C=C1)C(=O)NCC1=CC=C(C=C1)OC1=CC=CC=C1)C(COC1=CC=CC=C1)=O | C36H30N2O7
